US08258158B2
Preparation of the Starting Material, (rac) 4-(2,2,2-trifluoro-1-methoxymethyl-ethoxy)-phenylamine
This material was obtained following the procedures described in example 33 i,ii) from 1-fluoro-4-nitro-benzene and (rac)-1,1,1-trifluoro-3-methoxy-propan-2-ol.

reactant | 1-fluoro-4-nitro-benzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | (rac)-1,1,1-trifluoro-3-methoxy-propan-2-ol | FC(C(COC)O)(F)F | C4H7F3O2
product | (rac) 4-(2,2,2-trifluoro-1-methoxymethyl-ethoxy)-phenylamine | FC(C(OC1=CC=C(C=C1)N)COC)(F)F | C10H12F3NO2
